US04997840
Methanesulphonyl chloride (1.0 ml) was added to a stirred suspension of 7-cyano-3-hydroxy-1-methyl-4quinolone (0.4 g) and triethylamine (2.0 ml) in dry dichloromethane (200 ml) at 0 to 5° and the resultant solution stirred for 2 hours. The solution was washed with water (2×50 ml), dried over magnesium sulphate and the solvent removed by distillation. The residue was purified by flash chromatography on a silica gel column eluted with dichloromethane:methanol (40:1) followed by trituration with diethyl ether (10 ml) to give the novel compound 7-cyano-1-methyl-4-oxo-1,4-dihydroquinol-3-yl methanesulphonate, m.p. 268°.

reactant | Methanesulphonyl chloride | 1.0 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7-cyano-3-hydroxy-1-methyl-4quinolone | 0.4 g | C(#N)C1=CC=C2C(C(=CN(C2=C1)C)O)=O | C11H8N2O2
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 7-cyano-1-methyl-4-oxo-1,4-dihydroquinol-3-yl methanesulphonate | CS(=O)(=O)OC1=CN(C2=CC(=CC=C2C1=O)C#N)C | C12H10N2O4S
